US07902252B2
4.43. Synthesis of 6-(2-(naphthalen-1-yl)ethyl)-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylic acid (132)
The title compound was synthesized from methyl 6-(2-(naphthalen-1-yl)ethyl)-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylate (0.051 g, 0.16 mmol) and lithium hydroxide (0.067 g, 1.6 mmol in 3 mL water), according to General Procedure 7. A 1:1 mixture of methanol (MeOH) and THF (6 mL) was used. The resulting product was purified by column chromatography (Isco CombiFlash) eluting with a gradient of 0-60% EtOAc/heptane. 17 mg. 1H NMR (400 MHz, METHANOL-d4) δ ppm 1.85 (dq, J=13.45, 7.90 Hz, 1H) 2.08-2.27 (m, 2H) 2.46-2.62 (m, 1H) 2.62-2.80 (m, 2H) 3.04-3.22 (m, 3H) 6.61 (s, 1H) 7.29-7.41 (m, 2H) 7.41-7.54 (m, 2H) 7.64-7.73 (m, 1H) 7.80-7.87 (m, 1H) 8.03 (d, J=8.35 Hz, 1H); LCMS-MS (ESI−) 304.0 (M−H); HPLC (UV=95.2%), (ELSD=100%).

reactant | methyl 6-(2-(naphthalen-1-yl)ethyl)-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylate | 0.16 mmol, 0.051 g | C1(=CC=CC2=CC=CC=C12)CCC1CCC2=C1NC(=C2)C(=O)OC | C21H21NO2
reactant | lithium hydroxide | 1.6 mmol, 3 mL, 0.067 g | [OH-].[Li+]
reactant | methanol | CO | CH4O
solvent | THF | 6 mL | C1CCOC1 | C4H8O
product | 6-(2-(naphthalen-1-yl)ethyl)-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylic acid | C1(=CC=CC2=CC=CC=C12)CCC1CCC2=C1NC(=C2)C(=O)O | C20H19NO2
